US09126931B2
3-Bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one (20.0 mg, 0.043 mmol), thiophene-3-boronic acid (10.9 mg, 0.085 mmol), K3PO4 (40 mg) and Pd (PPh3)4 (9.9 mg, 0.0086 mmol) were dissolved in DMA (0.8 ml) and water (0.2 ml), and stirred at 140° C. for 10 min under microwave irradiation. The reaction solution was diluted with ethyl acetate and washed with saturated brine. The organic layer was concentrated under reduced pressure, and the resulting residues were purified by column chromatography (hexane/ethyl acetate) to obtain 8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-3-thiphen-3-yl-5,6-dihydro-benzo[b]carbazol-11-one.

reactant | 3-Bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 0.043 mmol, 20.0 mg | BrC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C=C4)OC[C@@H]4OC(OC4)(C)C)=O | C24H24BrNO4
reactant | thiophene-3-boronic acid | 0.085 mmol, 10.9 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | K3PO4 | 40 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DMA | 0.8 ml | CC(=O)N(C)C | C4H9NO
solvent | water | 0.2 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd (PPh3)4 | 0.0086 mmol, 9.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-3-thiphen-3-yl-5,6-dihydro-benzo[b]carbazol-11-one | CC1(OC[C@@H](O1)COC=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C2=CSC=C2)(C)C)C1)C | C28H27NO4S
